US05559111
d) 3-Tert-butoxycarbonyl-5(S)-(2(S)-formyl-3-methyl-butyl)-4(S)-{2(S)-isopropyl-3-[4-methoxy-3-(3-methoxypropyloxy)-phenyl]-propyl}-2,2-dimethyl-1,3-oxazolidine
100 g of molecular sieve (0.3 nm) and 16.6 g of N-methylmorpholine-N-oxide are added to 53 g of 3-tert-butoxycarbonyl-5(S)-(3-hydroxy-2(S)-isopropyl-propyl)-4(S)-{2(S)-isopropyl-3-[4-methoxy-3-(3-methoxypropyloxy)-phenyl]-propyl}-2,2-dimethyl-1,3-oxazolidine in 1.8 liters of dichloromethane at room temperature. The reaction mixture is stirred for 10 minutes and then 1.60 g of tetrapropylammonium perrutherate are added. The reaction mixture is stirred for a further 30 minutes and then filtered. The filtrate is diluted with dichloromethane and then washed in succession with 2M sodium sulfite solution, saturated sodium chloride solution and 1M copper(II) sulfate. The organic phase is concentrated by evaporation and the crude title compound is obtained: Rf (ethyl acetate/hexane=1:2)=0.43.

reactant | N-methylmorpholine-N-oxide | 16.6 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | 3-tert-butoxycarbonyl-5(S)-(3-hydroxy-2(S)-isopropyl-propyl)-4(S)-{2(S)-isopropyl-3-[4-methoxy-3-(3-methoxypropyloxy)-phenyl]-propyl}-2,2-dimethyl-1,3-oxazolidine | 53 g | C(C)(C)(C)OC(=O)N1C(O[C@H]([C@@H]1C[C@H](CC1=CC(=C(C=C1)OC)OCCCOC)C(C)C)C[C@H](CO)C(C)C)(C)C | C33H57NO7
reactant | tetrapropylammonium | 1.60 g | C(CC)[N+](CCC)(CCC)CCC
solvent | dichloromethane | 1.8 liters | ClCCl | CH2Cl2
product | 3-Tert-butoxycarbonyl-5(S)-(2(S)-formyl-3-methyl-butyl)-4(S)-{2(S)-isopropyl-3-[4-methoxy-3-(3-methoxypropyloxy)-phenyl]-propyl}-2,2-dimethyl-1,3-oxazolidine | C(C)(C)(C)OC(=O)N1C(O[C@H]([C@@H]1C[C@H](CC1=CC(=C(C=C1)OC)OCCCOC)C(C)C)C[C@@H](C(C)C)C=O)(C)C | C33H55NO7
